US08614220B2
4-Amino-N-(1-methyl-piperidin-4-yl)-3-trifluoromethoxy-benzamide
To a suspension of 4-amino-3-(trifluoromethoxy)benzoic acid (900 mg, 4 mmol) in dichloromethane (60 ml) TBTU (1.9 g, 6 mmol) and DIPEA (1.04 ml, 6 mmol) were added. The mixture was stirred at room temperature for 30 minutes. Then 1-methylpiperidin-4-amine (513 mg, 4.5 mmol) was added and the reaction was stirred for an additional 3 h. The solution was washed with water and the organic phase was dried over anhydrous Na2SO4. The crude was purified by flash chromatography (DCM/MeOH/NH3aq, 9:1:0.5), to give the title compound (900 mg, 71%), as an orange solid.

reactant | 4-amino-3-(trifluoromethoxy)benzoic acid | 4 mmol, 900 mg | NC1=C(C=C(C(=O)O)C=C1)OC(F)(F)F | C8H6F3NO3
reactant | dichloromethane | 6 mmol, 60 ml, 1.9 g | ClCCl | CH2Cl2
reactant | DIPEA | 6 mmol, 1.04 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-methylpiperidin-4-amine | 4.5 mmol, 513 mg | CN1CCC(CC1)N | C6H14N2
product | 4-Amino-N-(1-methyl-piperidin-4-yl)-3-trifluoromethoxy-benzamide | 900 mg, 71% | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC(F)(F)F | C14H18F3N3O2
